US06500863B1
N-cyclopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-cyclopropyl-2,6-dichloro-3-nitrobenzenesulfonamide (1.15 g, 3.70 mmol), 60% NaH (444 mg, 11.1 mmol) and water (67 μL, 3.70 mmol) were reacted to form the desired product (740 mg, 68%). 1H NMR (MeOD-d4): δ 8.06 (d, 1H), 7.24 (d, 1H), 2.29 (m, 1H), 0.60 (m, 4H).

reactant | N-cyclopropyl-2,6-dichloro-3-nitrobenzenesulfonamide | 3.70 mmol, 1.15 g | C1(CC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C9H8Cl2N2O4S
reactant | NaH | 11.1 mmol, 444 mg | [H-].[Na+]
reactant | water | 3.70 mmol, 67 μL | O | H2O
product | N-cyclopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 740 mg, 68% | C1(CC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C9H9ClN2O5S
